US04416683
To a stirred solution of 2.8 g of 5-amino-3-(1,1-dimethylethyl)isoxazole in 40 ml of tetrahydrofuran containing 4.5 ml of triethylamine was added dropwise over ten minutes a solution of 4.88 g of 2,6-di-n-propoxybenzoyl chloride in 10 ml of tetrahydrofuran. Following the addition, the reaction mixture was heated at reflux for seventy-two hours. The reaction mixture was then cooled to room temperature and the solvent was removed by evaporation under reduced pressure. The residue was dissolved in a mixture of dichloromethane and water, and the organic layer was separated, washed with fresh water, dried, and the solvent was removed by evaporation to provide an oil. The oil was crystallized from Skelly B and diethyl ether to provide 750 mg of N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2,6-di-n-propoxybenzamide. M.P. 85°-87° C. Yield 10%.

reactant | 5-amino-3-(1,1-dimethylethyl)isoxazole | 2.8 g | NC1=CC(=NO1)C(C)(C)C | C7H12N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,6-di-n-propoxybenzoyl chloride | 4.88 g | C(CC)OC1=C(C(=O)Cl)C(=CC=C1)OCCC | C13H17ClO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2,6-di-n-propoxybenzamide | 750 mg, Yield 10% | CC(C)(C)C1=NOC(=C1)NC(C1=C(C=CC=C1OCCC)OCCC)=O | C20H28N2O4
